US06509328B1
8-Phenylethynyl-4-pyridin-4-yl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
Prepared from (2-amino-4-phenylethynyl-phenyl)-carbamic acid tert.-butyl ester (Example G2) and 2,2-dimethyl-6-pyridin-4-yl-[1,3]dioxin-4-one (Example J9) according to the general procedure K. The obtained material was deprotected and cyclized by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a brown solid (50 mg).

reactant | (2-amino-4-phenylethynyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=CC=C1)N)=O | C19H20N2O2
reactant | 2,2-dimethyl-6-pyridin-4-yl-[1,3]dioxin-4-one | CC1(OC(=CC(O1)=O)C1=CC=NC=C1)C | C11H11NO3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Phenylethynyl-4-pyridin-4-yl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 50 mg | C1(=CC=CC=C1)C#CC=1C=CC2=C(NC(CC(=N2)C2=CC=NC=C2)=O)C1 | C22H15N3O
